US08426447B2
To a solution of (R)-2′-(2,2-dimethyl-3,6-dihydro-2H-pyran-4-yl)-7′-(pyrimidin-5-yl)-5H-spiro[oxazole-4,9′-xanthen]-2-amine (55 mg, 0.125 mmol) in MeOH (2 mL) palladium on carbon (66.4 mg, 0.062 mmol) was added and the mixture was hydrogenated at 50° C. (1 atm of hydrogen gas) for 30 min. Another 20 mg of Pd/C was added and hydrogenation was continued for 1.5 hr at 50° C. The mixture was filtered through a plug of celite and purified by silica gel chromatography (10-80% DCM/MeOH/NH4OH in DCM) to afford (R)-2′-(2,2-dimethyltetrahydro-2H-pyran-4-yl)-7′-(pyrimidin-5-yl)-5H-spiro[oxazole-4,9′-xanthen]-2-amine.

reactant | (R)-2′-(2,2-dimethyl-3,6-dihydro-2H-pyran-4-yl)-7′-(pyrimidin-5-yl)-5H-spiro[oxazole-4,9′-xanthen]-2-amine | 0.125 mmol, 55 mg | CC1(OCC=C(C1)C1=CC=2[C@]3(C4=CC(=CC=C4OC2C=C1)C=1C=NC=NC1)N=C(OC3)N)C | C26H24N4O3
reactant | MeOH | 0.062 mmol, 2 mL, 66.4 mg | CO | CH4O
reactant | hydrogen | [H][H] | H2
catalyst | Pd/C | 20 mg | [Pd] | Pd
product | (R)-2′-(2,2-dimethyltetrahydro-2H-pyran-4-yl)-7′-(pyrimidin-5-yl)-5H-spiro[oxazole-4,9′-xanthen]-2-amine | CC1(OCCC(C1)C1=CC=2[C@]3(C4=CC(=CC=C4OC2C=C1)C=1C=NC=NC1)N=C(OC3)N)C | C26H26N4O3
